US04431647
Step B: Preparation of 2-(hydroxyimino)-4-(phenylmethoxy)-1-indanone
To an ice-cooled solution of 1.91 g (0.008 m) of 4-(phenylmethoxy)-1-indanone in 75 ml of anhydrous ether is added dropwise with stirring 1.2 ml (0.088 m) of isoamyl nitrite while hydrogen chloride is simultaneously bubbled in. After stirring at room temperature for twenty minutes, the reaction mixture is partially concentrated and the solid which separates is filtered to yield 1.83 g (86%) of material sufficiently pure to be used in the next step.

reactant | 4-(phenylmethoxy)-1-indanone | 1.91 g | C1(=CC=CC=C1)COC1=C2CCC(C2=CC=C1)=O | C16H14O2
reactant | isoamyl nitrite | 1.2 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 75 ml | CCOCC | C4H10O
product | 2-(hydroxyimino)-4-(phenylmethoxy)-1-indanone | 1.83 g, 86% | ON=C1C(C2=CC=CC(=C2C1)OCC1=CC=CC=C1)=O | C16H13NO3
